US09403805B2
To a solution of (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester (50 mg) in tetrahydrofuran (7 mL), aq. ammonium hydroxide (15 mL) was added in a seal tube and the mixture was heated for 24 hrs at 95° C. The reaction mixture was concentrated and the aqueous layer was extracted with diethyl ether, washed with brine, dried, concentrated and was purified by column chromatography to obtain (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid amide (8 mg, 16% yield) as a light brown solid. MS calcd. for C23H30N3O3 [(M+H)+] 396, obsd. 396.

reactant | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester | 50 mg | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1 | C24H30N2O4
reactant | ammonium hydroxide | 15 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid amide | 8 mg, 16% yield | C1(CCCCC1)CN1[C@@H](C[C@@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)C(=O)N | C23H29N3O3
